US06627755B1
A mixture of 3-(2-chloro-phenyl)-6-fluoro-3,4-dihydro-quinazolin-4-one-2-carboxaldehyde (0.20 g, 0.66 mmol), 3-aminoacetanilide hydrochloride (0.062 g, 0.33 mmol), triethylamine (0.092 mL, 0.66 mmol), and acetic acid (0.19 mL, 3.3 mmol) in dichloroethane (10 mL) was chilled to 0° C. and sodium triacetoxyborohydride (0.350 g, 1.65 mmol) was added. The reaction was stirred for 1 hour at 0° C. and then allowed to warm to ambient temperature and stirred 16 hours. The reaction was quenched by addition of saturated aqueous bicarbonate and continued stirring for 30 minutes. The phases were separated and the aqueous layer was extracted with methylene chloride. The combined organic phase was washed with brine, dried over magnesium sulfate and concentrated. The residue triturated with 50% isopropyl ether/hexane to afford 0.035 g (24%) of N-(3-{[3-(2-Chloro-phenyl)-6-fluoro-4-oxo-3,4-dihydro-quinazolin-2-ylmethyl]-amino}-phenyl)-acetamide as a yellow solid which had: 1H NMR δ 7.92 (dd, J=3, 8 Hz, 1H), 7.86 (dd, J=5, 9 Hz, 1H), 7.67-7.64 (m, 1H), 7.56-7.48 (m, 4H), 7.40 (dd, J=2, 7 Hz, 1H), 7.32 (d, J=7 Hz, 1H), 7.13 (s, 1H), 7.06 (t, J=8 Hz, 1H), 6.65 (d, J=8 Hz, 1H), 6.28 (d, J=8 Hz, 1H), 3.89 (ABq, Δv1-3=49 Hz, J=17 Hz, 2H), 2.12 (s, 3H); APCI MS m/z=437 (P+1).

reactant | 3-(2-chloro-phenyl)-6-fluoro-3,4-dihydro-quinazolin-4-one-2-carboxaldehyde | 0.66 mmol, 0.20 g | ClC1=C(C=CC=C1)N1C(=NC2=CC=C(C=C2C1=O)F)C=O | C15H8ClFN2O2
reactant | 3-aminoacetanilide hydrochloride | 0.33 mmol, 0.062 g | C1=CC(=CC(=C1)N)CC(=O)N.Cl
reactant | triethylamine | 0.66 mmol, 0.092 mL | C(C)N(CC)CC | C6H15N
reactant | acetic acid | 3.3 mmol, 0.19 mL | C(C)(=O)O | C2H4O2
reactant | sodium triacetoxyborohydride | 1.65 mmol, 0.350 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | dichloroethane | 10 mL | ClC(C)Cl | C2H4Cl2
product | N-(3-{[3-(2-Chloro-phenyl)-6-fluoro-4-oxo-3,4-dihydro-quinazolin-2-ylmethyl]-amino}-phenyl)-acetamide | 0.035 g, 24% | ClC1=C(C=CC=C1)N1C(=NC2=CC=C(C=C2C1=O)F)CNC=1C=C(C=CC1)NC(C)=O | C23H18ClFN4O2
